US05326740
(1) Production of 1,4-bis(2'-hydroxyethoxy)benzene (HQG)
110.1 g (1 mol) of hydroquinone and 100 ml of dimethyl sulfoxide (DMSO) were put in a 100-ml three-neck flask and dissolved under heat at 135° to 140° C. 11.22 g (0.2 mol) of KOH were added thereto, and ethylene oxide was blown into the flask while stirring. At the point when a weight increase of about 90 g (theoretical amount: 88.1 g) was attained, the blowing was stopped and the reaction system was slightly cooled. Then, methanol was added thereto and dissolved, and the mixture was neutralized with concentrated HC1. After the solvent was removed by distillation under reduced pressure, 800 ml of ethyl acetate was added and dissolved under heat. The salt formed was removed by filtration, and the filtrate was cooled to give crystals. Thus, 27.3 g of pale gray crystals were obtained.

reactant | hydroquinone | 1 mol, 110.1 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | dimethyl sulfoxide | 100 ml | CS(=O)C | C2H6OS
reactant | KOH | 0.2 mol, 11.22 g | [OH-].[K+]
reactant | ethylene oxide | C1CO1 | C2H4O
reactant | methanol | CO | CH4O
product | 1,4-bis(2'-hydroxyethoxy)benzene | 27.3 g | OCCOC1=CC=C(C=C1)OCCO | C10H14O4
